US06743794B2
(4-Acetyl-piperazin-1-yl)-pyridin-3-yl-acetic Acid Ethyl Ester
N-acetyl-piperazine (3.7 g; 28.8 mmol; 2.8 equiv) was combined with bromo-pyridin-3-yl-acetic acid ethyl ester (approx. 2.5 g; 10 mmol). Purification on a 3×16 cm silica column using a 30% then 40% ethyl acetate/hexanes (v/v) mobile phase followed by a 2% methanol/dichloromethane (v/v) mobile phase resulted in 1.84 g light yellow oil (approx. 60% yield). MS(ES) calc'd: [M+H]+=292.2 m/z; [M+Na]+=314.2 m/z.

reactant | N-acetyl-piperazine | 28.8 mmol, 3.7 g, 2.8 equiv | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | bromo-pyridin-3-yl-acetic acid ethyl ester | 10 mmol, approx. 2.5 g | C(C)OC(C(C=1C=NC=CC1)Br)=O | C9H10BrNO2
product | (4-Acetyl-piperazin-1-yl)-pyridin-3-yl-acetic Acid Ethyl Ester | approx. 60% yield | C(C)OC(C(C=1C=NC=CC1)N1CCN(CC1)C(C)=O)=O | C15H21N3O3
